US07772226B2
(b) 3-(2-Butynyl)-2,4-dichloro-3H-imidazo[4,5-c]pyridine
2.22 ml of a tetrahydrofuran solution of lithium diisopropylamide was added dropwise to a 5 ml tetrahydrofuran solution of 490 mg of 3-(2-butynyl)-4-chloro-3H-imidazo[4,5-c]pyridine in a dry ice-methanol bath, and the mixture was stirred below −66° C. for 20 minutes. The resulting reaction mixture was added dropwise to a 2 ml tetrahydrofuran solution of 1.13 g of hexachloroethane while the temperature of the mixture was controlled to be −63° C. or lower. The mixture was stirred for one hour and 40 minutes in the same bath, and then a saturated aqueous ammonium chloride solution was added thereto. The resulting mixture was extracted twice with ethyl acetate, and the organic layer was dried over anhydrous magnesium sulfate, then filtered. The filtrate was concentrated under reduced pressure. Then, the resulting residue was purified by silica gel column chromatography. Thus, 120 mg of brown oily material was obtained from the fraction eluted with hexane-ethyl acetate (2:1).

reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | 3-(2-butynyl)-4-chloro-3H-imidazo[4,5-c]pyridine | 490 mg | C(C#CC)N1C=NC2=C1C(=NC=C2)Cl | C10H8ClN3
reactant | hexachloroethane | 1.13 g | ClC(C(Cl)(Cl)Cl)(Cl)Cl | C2Cl6
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2.22 ml | O1CCCC1 | C4H8O
product | 3-(2-Butynyl)-2,4-dichloro-3H-imidazo[4,5-c]pyridine | 120 mg | C(C#CC)N1C(=NC2=C1C(=NC=C2)Cl)Cl | C10H7Cl2N3
